US09029536B2
B) 4-[(1-(2,2-Difluoroethyl)-6-fluoro-1H-pyrazolo[4,3-b]pyridin-3-yl]phenol
To a stirred mixture of 3-[4-(benzyloxy)phenyl]-6-fluoro-1H-pyrazolo[4,3-b]pyridine (100 mg) and Cs2CO3 (204 mg) in DMF (4 mL) was added 2,2-difluoroethyl trifluoromethanesulfonate (73.8 mg) at 0° C. The mixture was stirred at room temperature for 12 h, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was dissolved in EtOH (8 mL) and 10% Pd—C (50% wet, 100 mg) was added. The mixture was stirred at room temperature for 1 h under H2 atmosphere, filtered and evaporated. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (47.0 mg).

reactant | 3-[4-(benzyloxy)phenyl]-6-fluoro-1H-pyrazolo[4,3-b]pyridine | 100 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NNC=2C1=NC=C(C2)F | C19H14FN3O
reactant | Cs2CO3 | 204 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2,2-difluoroethyl trifluoromethanesulfonate | 73.8 mg | FC(S(=O)(=O)OCC(F)F)(F)F | C3H3F5O3S
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (1-(2,2-Difluoroethyl)-6-fluoro-1H-pyrazolo[4,3-b]pyridin-3-yl]phenol | 47.0 mg | FC(CN1N=C(C2=NC=C(C=C21)F)C2=C(C=CC=C2)O)F | C14H10F3N3O
